US08633001B2
Production of Diethyl 2-benzyloxycarbonylamino-2-ethoxycarbonylsuccinate (Ethyl Bromoacetate Method)
A solution of diethyl 2-benzyloxycarbonylaminomalonate (50 g) in anhydrous DMF (300 mL) was added portionwise with sodium hydride (60%, 6.47 g) with ice cooling and stirring, then the mixture was stirred at room temperature for 30 minutes, and subsequently added with ethyl 2-bromoacetate (22.6 g), and the mixture was stirred overnight. The reaction mixture was poured into diluted hydrochloric acid, the mixture was extracted with ethyl acetate, and the extract was washed with saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was subjected to silica gel column chromatography, in which elution was performed with n-hexane/ethyl acetate (5:1) for purification, and then crystallized from ethyl acetate/n-hexane to obtain the title compound (46.7 g, yield: 83%) as colorless crystals.

reactant | diethyl 2-benzyloxycarbonylaminomalonate | 50 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OCC)C(=O)OCC | C15H19NO6
reactant | sodium hydride | 6.47 g | [H-].[Na+]
reactant | ethyl 2-bromoacetate | 22.6 g | BrCC(=O)OCC | C4H7BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | Diethyl 2-benzyloxycarbonylamino-2-ethoxycarbonylsuccinate | 46.7 g, yield: 83% | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OCC)(CC(=O)OCC)C(=O)OCC | C19H25NO8
